US07728029B2
A solution of 3-dimethylamino-2-(5-methyl-isoxazole-3-carbonyl)-acrylic acid ethyl ester (27.53 mmol) in absolute ethanol (41.7 mL) was treated with tert-butylhydrazine hydrochloride (3.57 g, 28.63 mmol) and sodium acetate (2.80 g, 34.13 mmol). The resulting mixture was heated to 90° C. for 18 h. At this time, the reaction was cooled to 25° C. The reaction was diluted with water (200 mL) and was then extracted with dichloromethane (3×150 mL). The combined organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford 1-tert-butyl-5-(5-methyl-isoxazol-3-yl)-1H-pyrazole-4-carboxylic acid methyl ester (7.37 g, 96%) as a black solid. The material was used without further purification.

reactant | 3-dimethylamino-2-(5-methyl-isoxazole-3-carbonyl)-acrylic acid ethyl ester | 27.53 mmol | C(C)OC(C(=CN(C)C)C(=O)C1=NOC(=C1)C)=O | C12H16N2O4
reactant | tert-butylhydrazine hydrochloride | 28.63 mmol, 3.57 g | Cl.C(C)(C)(C)NN
reactant | sodium acetate | 34.13 mmol, 2.80 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 41.7 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 1-tert-butyl-5-(5-methyl-isoxazol-3-yl)-1H-pyrazole-4-carboxylic acid methyl ester | 7.37 g, 96% | COC(=O)C=1C=NN(C1C1=NOC(=C1)C)C(C)(C)C | C13H17N3O3
